US07989454B2
Step 2: 3-Bromo-5-hydroxy-benzoic acid tert-butyl ester
To a suspension of 3-bromo-5-hydroxy benzoic acid (2.0 g, 9.26 mmol) in toluene (20 mL) was slowly added N,N-dimethylformamide di-t-butyl acetal (10 mL, 40 mmol). The reaction mixture was heated at 80° C. for 14 h. Then the reaction mixture was cooled to room temperature and concentrated under reduced pressure. The crude material was purified by column chromatography (Isco™ 120 g) using 20% ethyl acetate/hexanes as eluting solvents to give the title compound (1.0 g, 40%) as a light yellow solid.

reactant | 3-bromo-5-hydroxy benzoic acid | 9.26 mmol, 2.0 g | BrC=1C=C(C(=O)O)C=C(C1)O | C7H5BrO3
reactant | N,N-dimethylformamide di-t-butyl acetal | 40 mmol, 10 mL | C(C)(C)(C)OC(N(C)C)OC(C)(C)C | C11H25NO2
solvent | toluene | 20 mL | C1(=CC=CC=C1)C | C7H8
product | 3-Bromo-5-hydroxy-benzoic acid tert-butyl ester | 1.0 g, 40% | C(C)(C)(C)OC(C1=CC(=CC(=C1)O)Br)=O | C11H13BrO3
